US04355037
1-Acetyl-4-(2-hydroxy-5-methoxybenzoyl)piperidine oxime
A solution of 15.5 g of 1-acetyl-4-(2-hydroxy-5-methoxybenzoyl)piperidine, 7.0 g of hydroxylamine hydrochloride, 9.5 g of ammonium acetate and 75 ml of water was heated under reflux for 20 hrs. The solution was poured into water and extracted with dichloromethane. The dichloromethane extract was washed with water, dried over anhydrous magnesium sulfate and the solvent was removed in vacuo to give an oil. The oil was triturated with hot toluene. The toluene was decanted and the oil was triturated with ether to give a solid. The tolulene triturant, upon standing, yielded a solid. The solids were combined and recrystallized from acetonitrile to yield 2.8 g (17.4%) of product, mp, 191°-193°, as a mixture of E- and Z-isomers. The chromatogram showed 2 spots.

reactant | 1-acetyl-4-(2-hydroxy-5-methoxybenzoyl)piperidine | 15.5 g | C(C)(=O)N1CCC(CC1)C(C1=C(C=CC(=C1)OC)O)=O | C15H19NO4
reactant | hydroxylamine hydrochloride | 7.0 g | Cl.NO
reactant | ammonium acetate | 9.5 g | C(C)(=O)[O-].[NH4+]
solvent | water | O | H2O
solvent | water | 75 ml | O | H2O
product | 1-Acetyl-4-(2-hydroxy-5-methoxybenzoyl)piperidine oxime | 2.8 g, 17.4% | C(C)(=O)N1CCC(CC1)C(C1=C(C=CC(=C1)OC)O)=NO | C15H20N2O4
